US07691882B2
4-[1,3]Dioxolan-2-ylbenzaldehyde
To a tetrahydrofuran (100 mL) solution of 2-(4-bromo-phenyl)-1,3-dioxolane (8 g, 34.9 mmol) was added dropwise n-butyl lithium (19.6 mL, 2.67 M hexane solution, 52.4 mmol) at −78° C. After 1 hour of stirring at −78° C., N-formylmorpholine (4.42 g, 38.4 mmol) was added to the mixture, and stirred for 3 hours at the same temperature. This mixture was partitioned into diethyl ether and water. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (6.3 g). This compound was used in the subsequent reaction without being purified.

reactant | 2-(4-bromo-phenyl)-1,3-dioxolane | 34.9 mmol, 8 g | BrC1=CC=C(C=C1)C1OCCO1 | C9H9BrO2
reactant | n-butyl lithium | 52.4 mmol, 2.67 M, 19.6 mL | C(CCC)[Li]
reactant | N-formylmorpholine | 38.4 mmol, 4.42 g | C(=O)N1CCOCC1 | C5H9NO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-[1,3]Dioxolan-2-ylbenzaldehyde | 6.3 g | O1C(OCC1)C1=CC=C(C=O)C=C1 | C10H10O3
